US04972009
alpha-[4-(N,N-bis(2,2,6,6-tetramethylpiperidin-4-yl)aminocarbonyl)phenyl]-N-[4-(N,N-bis(2,2,6,6-tetramethylpiperidin-4-yl)aminocarbonyl)benzyl]nitrone
Following the general procedure of Example 6, the title compound is prepared from N,N-bis[4-(N,N-bis(2,2,6,6-tetramethylpiperidin-4-yl)aminocarbonyl)benzyl]hydroxylamine. Said intermediate is prepared from N,N-bis(2,2,6,6-tetramethylpiperidin-4-yl)-4-chloromethylbenzamide and hydroxylamine.

reactant | N,N-bis[4-(N,N-bis(2,2,6,6-tetramethylpiperidin-4-yl)aminocarbonyl)benzyl]hydroxylamine | CC1(NC(CC(C1)N(C(=O)C1=CC=C(CN(O)CC2=CC=C(C=C2)C(=O)N(C2CC(NC(C2)(C)C)(C)C)C2CC(NC(C2)(C)C)(C)C)C=C1)C1CC(NC(C1)(C)C)(C)C)(C)C)C | C52H85N7O3
reactant | N,N-bis(2,2,6,6-tetramethylpiperidin-4-yl)-4-chloromethylbenzamide | CC1(NC(CC(C1)N(C(C1=CC=C(C=C1)CCl)=O)C1CC(NC(C1)(C)C)(C)C)(C)C)C | C26H42ClN3O
reactant | hydroxylamine | NO | H3NO
product | alpha-[4-(N,N-bis(2,2,6,6-tetramethylpiperidin-4-yl)aminocarbonyl)phenyl]-N-[4-(N,N-bis(2,2,6,6-tetramethylpiperidin-4-yl)aminocarbonyl)benzyl]nitrone | CC1(NC(CC(C1)N(C(=O)C1=CC=C(C=C1)C=[N+]([O-])CC1=CC=C(C=C1)C(=O)N(C1CC(NC(C1)(C)C)(C)C)C1CC(NC(C1)(C)C)(C)C)C1CC(NC(C1)(C)C)(C)C)(C)C)C | C52H83N7O3
